US07253196B2
2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one
1-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-yl)thiourea (887 mg, 5.25 mmol), 3-bromo-dihydrofuran-2(3 H)-one (1.65 g, 5 mmol), EtOH (10 mL) and DIEA (5.0 mL) were placed in a microwave reaction vessel. The mixture was placed in a microwave synthesizer and was irradiated at 150° C. for 30 min. The resulting mixture was poured into water and extracted with EtOAc and dried over MgSO4. After being filtered and concentrated in vacuo, the title compound was obtained a brown solid. MS (ES+): 255 (M+H)+.

reactant | 1-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-yl)thiourea | 5.25 mmol, 887 mg | [C@H]12[C@H](C[C@H](CC1)C2)NC(=S)N | C8H14N2S
reactant | 3-bromo-dihydrofuran-2(3 H)-one | 5 mmol, 1.65 g | BrC1C(OCC1)=O | C4H5BrO2
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | DIEA | 5.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)CCO | C12H18N2O2S
